US07192968B2
(1R*,2S*)-4-Acetoxy-N1,N2-bis(tert-butoxycarbonyl)-1,2-cyclohexanediamine (Stereoisomer B)
(1R*,2S*)-N1,N2-Bis(tert-butoxycarbonyl)-4-hydroxy-1,2-cyclohexanediamine (Stereoisomer B) (1.74 g) was dissolved in pyridine (15 ml), and acetic anhydride (5 ml) was added to stir the mixture at room temperature for 4 days. 1N Hydrochloric acid was added to the reaction mixture, extraction was conducted with ethyl acetate, and the resultant organic layer was successively washed with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated saline, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:3) to obtain the title compound (1.96 g) as a colorless oil.

reactant | (1R*,2S*)-N1,N2-Bis(tert-butoxycarbonyl)-4-hydroxy-1,2-cyclohexanediamine | 1.74 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC(CC1)O)NC(=O)OC(C)(C)C | C16H30N2O5
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | (1R*,2S*)-4-Acetoxy-N1,N2-bis(tert-butoxycarbonyl)-1,2-cyclohexanediamine | 1.96 g | C(C)(=O)OC1C[C@@H]([C@@H](CC1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C18H32N2O6
